US20010027197A1
A mixture of 6-chloropurine (1.0 g, 6.47 mmol), 3-bromoaniline (0.78 mL, 7.12 mmol), and conc HCl (4 drops) in isopropanol (10 mL) is stirred at 80° C. for 5 h. Upon cooling, it precipitates. The solid is filtered and washed with isopropanol and air dried to yield N6-(3-bromophenyl)adenine (1.93 g, 91%) as a light yellow solid. 1H NMR (DMSO) δ 11.38 (1H, s), 8.78 (1H, s), 8.75 (1H, s), 7.90 (1H, d, J=8.0 Hz), 7.38-7.34 (2H, m).

reactant | 6-chloropurine | 6.47 mmol, 1.0 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 3-bromoaniline | 7.12 mmol, 0.78 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
catalyst | HCl | 4 drops | Cl | ClH
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | N6-(3-bromophenyl)adenine | 1.93 g, 91% | BrC=1C=C(C=CC1)NC1=C2NC=NC2=NC=N1 | C11H8BrN5
